US06350756B1
The mixture of 4-nitro-3-trifluoromethylphenol (414 mg, 2.0 mmol), potassium carbonate (910 mg, 6.6 mmol), ethyl bromoacetate (500 mg, 3.0 mmol) and acetone (25 ml) was refluxed for 8 h. After cooling, the mixture was filtered to remove potassium carbonate. The filtrate was concentrated under reduced pressure. To this residue, 10 ml of dioxane and 14 ml 5% sodium hydroxide solution were added. After the mixture was stirred at room temperature overnight, it was acidified with concentrated hydrochloric acid to pH 2, and then extracted three times with ethyl acetate (20 ml each). Organic phases were combined, washed with water and brine, dried over magnesium sulfate, filtered, and then evaporated in vacuo. The residue was separated by column chromatography (eluent: ethyl acetate: EtOH 9:1) to give 35 mg 4-nitro-3-trifluoromethylphenoxyacetic acid as white solid, mp 92-95° C.

reactant | 4-nitro-3-trifluoromethylphenol | 2.0 mmol, 414 mg | [N+](=O)([O-])C1=C(C=C(C=C1)O)C(F)(F)F | C7H4F3NO3
reactant | potassium carbonate | 6.6 mmol, 910 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 3.0 mmol, 500 mg | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 4-nitro-3-trifluoromethylphenoxyacetic acid | 35 mg | [N+](=O)([O-])C1=C(C=C(OCC(=O)O)C=C1)C(F)(F)F | C9H6F3NO5
